US07659268B2
A suspension of N-(6-chloro-5-ethylpyridin-2-yl)pivalamide (1.16 g, 4.82 mmol) in 6N HCl (20 mL) was heated at reflux overnight. The reaction mixture was cooled to room temperature and was treated with aqueous NaOH to pH 8. The aqueous layer was extracted with EtOAc. The organic layer was dried over MgSO4 and the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel (5% EtOAc in petroleum ether) to afford 6-chloro-5-ethylpyridin-2-amine (650 mg, 86%). 1H NMR (CDCl3, 400 MHz) δ 7.35 (d, J=8.4, 1H), 6.45 (d, J=8.4, 1H), 2.61 (q, J=7.6, 2H), 1.18 (t, J=7.6, 3 H).

reactant | N-(6-chloro-5-ethylpyridin-2-yl)pivalamide | 4.82 mmol, 1.16 g | ClC1=C(C=CC(=N1)NC(C(C)(C)C)=O)CC | C12H17ClN2O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6N, 20 mL | Cl | ClH
product | 6-chloro-5-ethylpyridin-2-amine | 650 mg, 86% | ClC1=C(C=CC(=N1)N)CC | C7H9ClN2
